US04841051
A mixture comprising of 13.36 g 3-phenyl-5,7-dimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione, 43.18 g of 1,4-dibromobutane, 10.37 g of anhydrous potassium carbonate and 150 ml of N,N-dimethyl-formamide was heated at 80° C. for 3 hours. After the completion of the reaction, the reaction mixture was poured into 600 ml of water. The resulting mixture was extracted with ethyl acetate and further with a small amount of dichloromethane. These extracts were combined, dried over anhydrous potassium carbonate and distilled under a reduced pressure to remove the solvent. The obtained residue was dissolved in a small amount of dichloromethane, columnchromatographed over silica gel column and eluted with dichloromethane. The eluate was concentrated under a reduced pressure and the residue was recrystallized from a dichloromethaneisopropyl ether solvent to give 13.06 g of 3-phenyl-5,7-dimethyl-1-(4-bromobutyl)pyrido[2,3-d]-pyrimidin-2,4(1H,3H)-dione having a melting point of 153.5° to 154.5° C., which serves as an intermediate (yield: 65%).

reactant | 3-phenyl-5,7-dimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 13.36 g | C1(=CC=CC=C1)N1C(NC2=C(C1=O)C(=CC(=N2)C)C)=O | C15H13N3O2
reactant | 1,4-dibromobutane | 43.18 g | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 10.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethyl-formamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 600 ml | O | H2O
product | 3-phenyl-5,7-dimethyl-1-(4-bromobutyl)pyrido[2,3-d]-pyrimidin-2,4(1H,3H)-dione | 13.06 g, yield: 65% | C1(=CC=CC=C1)N1C(N(C2=C(C1=O)C(=CC(=N2)C)C)CCCCBr)=O | C19H20BrN3O2
